US05650422
A mixture of 2-(chloromethyl) saccharin (3 g, 12.9 mmol) , 1-cyclohexyl-5-mercapto-1H-tetrazole (2.37 g, 12.9 mmol) and potassium carbonate (4.45 g, 32.2 mmol) was heated under reflux in methyl ethyl ketone (50 ml) for 1 hour. The reaction mixture was cooled, poured into dilute sodium bicarbonate/ice solution and extracted twice with ethyl acetate. The combined organic extracts were washed with water, dried (Na2SO4) and freed of solvent under vacuum. Chromatography (silica gel; MDC) afforded 2 g of 2-(1-cyclohexyl-1H-tetrazol-5-ylthiomethyl) saccharin as a white foam that was crystallized from hot cyclohexane, mp 103°-105° C. 1H nmr (90 MHz, CDCl3):5.65 (2H, s). FDMS: m/e 379 (M+).

reactant | 2-(chloromethyl) saccharin | 12.9 mmol, 3 g | ClCN1S(=O)(=O)C2=CC=CC=C2C1=O | C8H6ClNO3S
reactant | 1-cyclohexyl-5-mercapto-1H-tetrazole | 12.9 mmol, 2.37 g | C1(CCCCC1)N1N=NN=C1S | C7H12N4S
reactant | potassium carbonate | 32.2 mmol, 4.45 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | 2-(1-cyclohexyl-1H-tetrazol-5-ylthiomethyl) saccharin | 2 g | C1(CCCCC1)C(N1S(=O)(=O)C2=CC=CC=C2C1=O)SC1=NN=NN1 | C15H17N5O3S2
